// Library name: SAR_11B_ZZS
// Cell name: _TU_REF_GEN
// View name: schematic
// Inherited view list: spectre cmos_sch cmos.sch schematic veriloga ahdl
// pspice dspf
subckt _TU_REF_GEN VREFN VREFP
    V31 (net1 0) vsource dc=VDD type=dc
    V30 (net2 0) vsource dc=0 type=dc
    R1 (VREFN net2) resistor r=0
    R0 (VREFP net1) resistor r=0
ends _TU_REF_GEN
// End of subcircuit definition.

